** sch_path: /home/raiku/plm/heichips26-voltage-controlled-resistor/macros/heichips26_analog_project/macros/yadav/schematic/xschem/yadav.sch
**.subckt yadav Vdd Rin Rout Vc Vss
*.ipin Vc
*.iopin Vss
*.iopin Vdd
*.ipin Rin
*.opin Rout
XM3 Vdd Rin net2 Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM13 net1 net1 Vdd Vdd sg13_hv_pmos w=18.5u l=2.16u ng=2 m=1 mm_ok=1
XM1 net4 Rin net3 Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM5 net1 net2 net3 Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM2 net1 Rout net3 Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM16 net4 net4 Vdd Vdd sg13_hv_pmos w=18.5u l=2.16u ng=2 m=1 mm_ok=1
XM7 net2 Vc Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM6 net4 net7 net3 Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM14 net5 net1 Vdd Vdd sg13_hv_pmos w=18.5u l=2.16u ng=2 m=1 mm_ok=1
XM8 net7 Vc Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM4 Vdd Rout net7 Vss sg13_hv_nmos w=0.72u l=4.14u ng=2 m=1 mm_ok=1
XM9 net5 net5 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=2 m=1 mm_ok=1
XM10 Rout net5 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=2 m=1 mm_ok=1
XM17 Rout net4 Vdd Vdd sg13_hv_pmos w=18.5u l=2.16u ng=2 m=1 mm_ok=1
XM18 net6 net4 Vdd Vdd sg13_hv_pmos w=18.5u l=2.16u ng=2 m=1 mm_ok=1
XM11 net6 net6 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=2 m=1 mm_ok=1
XM12 Rin net6 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=2 m=1 mm_ok=1
XM15 Rin net1 Vdd Vdd sg13_hv_pmos w=18.5u l=2.16u ng=2 m=1 mm_ok=1
I0 net3 Vss 60u
**.ends
.end
